US05239083
4-{2-[3-[1-(4-methylpentyl)indol-5-yl]isocrotonoyl amino]phenoxy}butyric acid (Compound 11)
0.41 g of compound 11 was obtained in a similar manner to those described in the Examples 1 and 2 using 2.33 g of ethyl 4-(2-aminophenoxy)butyrate and 1.49 g of 3-[1-(4-methylpentyl)indol-5-yl]isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 2.33 g | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-[1-(4-methylpentyl)indol-5-yl]isocrotonic acid | 1.49 g | CC(CCCN1C=CC2=CC(=CC=C12)/C(=C/C(=O)O)/C)C | C18H23NO2
product | 4-{2-[3-[1-(4-methylpentyl)indol-5-yl]isocrotonoyl amino]phenoxy}butyric acid | CC(CCCN1C=CC2=CC(=CC=C12)/C(=C/C(=O)NC1=C(OCCCC(=O)O)C=CC=C1)/C)C | C28H34N2O4
